US07851473B2
tert-Butyl 4-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperazine-1-carboxylate
To a solution of tert-butyl 4-(5-chloro-1,2,4-thiadiazol-3-yl)piperazine-1-carboxylate (169 mg, 0.555 mmol) and N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate (200 mg, 0.555 mmol) in N,N-dimethylformamide (2 ml) was added triethylamine (0.389 ml, 2.78 mmol) at room temperature, and the mixture was stirred at room temperature for 5 minutes. The reaction mixture was poured to water and the desired product as a solid was separated by filtration, which was recrystallized from a mixed solvent of ethyl acetate and tetrahydrofuran to give 126 mg (44.1%) of the desired product.

reactant | tert-butyl 4-(5-chloro-1,2,4-thiadiazol-3-yl)piperazine-1-carboxylate | 0.555 mmol, 169 mg | ClC1=NC(=NS1)N1CCN(CC1)C(=O)OC(C)(C)C | C11H17ClN4O2S
reactant | N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate | 0.555 mmol, 200 mg | FC(C(=O)O)(F)F.O1N=C(C2=C1C=CC=C2)NC(=O)N2CCNCC2
reactant | triethylamine | 2.78 mmol, 0.389 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperazine-1-carboxylate | 126 mg, 44.1% | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)N2CCN(CC2)C(=O)OC(C)(C)C | C23H30N8O4S
